US04518597
6-(4-Hydroxy-butoxy)-4H-3,1-benzoxazin-2-one
A solution of 24 gm (0.6 mol) of sodium hydroxide in 100 ml of water is added dropwise to a solution of 150 gm (0.537 mol) of 6-(4-acetoxy-butoxy)-4H-3,1-benzoxazin-2-one in 500 ml of methanol, under stirring, at 10° to 15° C. After the mixture has been stirred for one hour at ambient temperature, first ice water and then 60 ml of glacial acetic acid are added. The product precipitated is subjected to suction filtration and recrystallized from water.

reactant | sodium hydroxide | 0.6 mol, 24 gm | [OH-].[Na+]
reactant | 6-(4-acetoxy-butoxy)-4H-3,1-benzoxazin-2-one | 0.537 mol, 150 gm | C(C)(=O)OCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C14H17NO5
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 6-(4-Hydroxy-butoxy)-4H-3,1-benzoxazin-2-one | OCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C12H15NO4
